US05504252
2-Octyl Cyanopropionate phenylselenide (1)
To a 4-neck 500 ml flask, equipped with a condenser, mechanical stirrer, thermometer, and nitrogen inlet, was added sodium hydride (3.9 g, 153 mmol) and THF (250 ml) under nitrogen. 2-octyl-2-cyanopropionate (20 g, 115 mmol) was added over 10 min. and the reaction mixture was stirred for 1 hour at room temperature. A solution of phenylselenium bromide, prepared by the above method, was added by syringe. The reaction mixture was stirred for 1 hour and added to 250 ml each of ether and sat. aq. NaHCO3. The organic layer was washed twice with 250 ml of H2O and once with 250 ml sat. aq. NaCl. The organic layer was separated, dried (MgSO4) and filtered. Solvent was removed under reduced pressure. Yield=43.2 g (quant.); NMR δ (CDCl3) 7.75 (d, 2H), 7.40 (m, 3H), 4.85 (m, 2H), 1.80 (s, 3H), 0.8-1.70 (m, 16H); IR (neat) 2333, 1734, 1251 cm-1.

reactant | sodium hydride | 153 mmol, 3.9 g | [H-].[Na+]
reactant | 2-octyl-2-cyanopropionate | 115 mmol, 20 g | C(CCCCCCC)C(C(=O)[O-])(C)C#N
reactant | phenylselenium bromide | C1(=CC=CC=C1)[Se]Br | C6H5BrSe
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | ether | 250 ml | CCOCC | C4H10O
solvent | THF | 250 ml | C1CCOC1 | C4H8O
product | 2-Octyl Cyanopropionate phenylselenide | C1(=CC=CC=C1)[Se]C1=CC=CC=C1.C(#N)C(C(=O)OC(C)CCCCCC)C | InChI=1S/C12H21NO2.C12H10Se/c1-4-5-6-7-8-11(3)15-12(14)10(2)9-13;1-3-7-11(8-4-1)13-12-9-5-2-6-10-12/h10-11H,4-8H2,1-3H3;1-10H
